US04803210
Preparation of 3,4,5,6-tetrahydro-2H-oxazolo[5',4':3,4]cyclohepta[1,2-c]pyridin-2-one
N,N'-carbonyldiimidazole (4.86 g, 0.030 mole) was added portionwise to a stirred, aqueous solution of 6-aminocyclohepta[1,2-c]pyridin-5-one (4.20g, 0.0169 mole) maintained at 2° C. After stirring for 30 minutes, ethyl acetate (~300 ml) was added and the mixture stirred until it reached room temperature. The organic phase was extracted with water (150 ml), washed with brine, and dried (MgSO4). The light brown solid isolated after solvent removal was heated (180° C.) for 35 minutes, cooled to room temperature, then quenched with water (200 ml). The aqueous mixture was stirred for about 12 hours and the brown residue collected by filtration, after washing with ethyl acetate (50 ml), then methylene chloride (50 ml), was recrystallized from aqueous ethanol (50%, ~50 ml) to give 0.29 g of the desired product, m.p. >285° C.

reactant | 6-aminocyclohepta[1,2-c]pyridin-5-one | 0.0169 mole, 4.20g | NC=1C(C2=C(C=NC=C2)C=CC1)=O | C10H8N2O
reactant | ethyl acetate | ~300 ml | C(C)(=O)OCC | C4H8O2
product | 3,4,5,6-tetrahydro-2H-oxazolo[5',4':3,4]cyclohepta[1,2-c]pyridin-2-one | 0.29 g | O1C(NC2=C1C1=C(C=NC=C1)CCC2)=O | C11H10N2O2
